US07910617B2
(1b) (2R)-2-Amino-2-methyl-4-{1-methyl-5-[4-(4-methylphenyl)butanoyl]pyrrol-2-yl}butan-1-ol hydrochloride
(2R)-1-Acetoxy-2-acetylamino-2-methyl-4-{1-methyl-5-[4-(4-methylphenyl)-1-(4-(4-methylphenyl)butanoyloxy)but-1-enyl]pyrrol-2-yl}butane (5.15 g,8.80 mmol) obtained in Example 1 (1a) was dissolved in a mixture of tetrahydrofuran (52 mL) and methanol (52 mL), and water (52 mL) and lithium hydroxide monohydrate (3.68 g, 87.7 mmol) were added thereto, followed by stirring of the mixture at 50° C. for 4 hours. After cooling, water and methylene chloride were added to the reaction mixture to separate it. The thus obtained organic phase was separated, washed with a saturated aqueous NaCl solution and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by basic silica gel (NH type) chromatography (methylene chloride:metahanol, 100:1) to obtain (2R)-2-amino-2-methyl-4-{1-methyl-5-[4-(4-methylphenyl)butanoyl]pyrrol-2-yl}butan-1-ol (2.51 g). A 4N hydrochloric acid-dioxane solution (0.42 mL, 1.68 mmol) was added to a solution of the thus obtained (2R)-2-amino-2-methyl-4-{1-methyl-5-[4-(4-methylphenyl)butanoyl]pyrrol-2-yl}butan-1-ol (600 mg, 1.80 mmol) in methanol (9 mL) under ice-cooling and the mixture was stirred for 10 minutes. The mixture was concentrated under reduced pressure, ethyl acetate was added thereto and the precipitated crystal was collected by filtration. The crystal was washed with ethyl acetate and dried under reduced pressure to obtain the title compound (500 mg, yield: 86%).

reactant | hydrochloric acid dioxane | 1.68 mmol, 4N, 0.42 mL | Cl.O1CCOCC1
reactant | (2R)-2-amino-2-methyl-4-{1-methyl-5-[4-(4-methylphenyl)butanoyl]pyrrol-2-yl}butan-1-ol | 1.80 mmol, 600 mg | N[C@@](CO)(CCC=1N(C(=CC1)C(CCCC1=CC=C(C=C1)C)=O)C)C | C21H30N2O2
solvent | methanol | 9 mL | CO | CH4O
product | (2R)-2-Amino-2-methyl-4-{1-methyl-5-[4-(4-methylphenyl)butanoyl]pyrrol-2-yl}butan-1-ol hydrochloride | 500 mg, yield: 86% | Cl.N[C@@](CO)(CCC=1N(C(=CC1)C(CCCC1=CC=C(C=C1)C)=O)C)C | InChI=1S/C21H30N2O2.ClH/c1-16-7-9-17(10-8-16)5-4-6-20(25)19-12-11-18(23(19)3)13-14-21(2,22)15-24;/h7-12,24H,4-6,13-15,22H2,1-3H3;1H/t21-;/m1./s1
